US06011044
Preparation of 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-trifluoromethoxypyrrolo[3,2-c]quinoline
1-(2-Methyl-4-fluorophenyl)-4-chloro-6-trifluoromethoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline(394 mg, 1.0 mmol) was dissolved in aqueous solution of methylamine (40%, 10 ml) in the pressure tube. The reaction mixture was refluxed at 180° C. for 3 hours. After removing the reaction solvent of the above mixture, the residue was diluted in dichloromethane(20 ml), and washed with water(15 ml) for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to obtain 301 mg of desired compound as solid in 77% of yield.

reactant | 1-(2-Methyl-4-fluorophenyl)-4-chloro-6-trifluoromethoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 1.0 mmol, 394 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H15ClF4N2O
reactant | methylamine | 10 ml | CN | CH5N
product | 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-trifluoromethoxypyrrolo[3,2-c]quinoline | 301 mg | CC1=C(C=CC(=C1)F)N1C=CC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NC | C20H15F4N3O
